US04231930
A solution of N-(benzylthio)phthalimide (1.1 g) in benzene (50 ml) is refluxed and a solution of 8-chloro-1-(mercaptomethyl)-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine (700 mg) in methylene chloride (7 ml) is added at a stroke. The solvent is evaporated from the reaction mixture and the residue is chromatographed on a column of silica gel, which is eluted with ethyl acetatemethanol (20:1) to give 8-chloro-1-(benzylthio)methyl-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine (350 mg) as crystals. This material is recrystallized from ethyl acetate to give crystals melting at 144°-145° C.

reactant | N-(benzylthio)phthalimide | 1.1 g | C(C1=CC=CC=C1)SN1C(C=2C(C1=O)=CC=CC2)=O | C15H11NO2S
reactant | 8-chloro-1-(mercaptomethyl)-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 700 mg | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CS)C3=C(C=CC=C3)Cl)C1 | C17H12Cl2N4S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 8-chloro-1-(benzylthio)methyl-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 350 mg | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CSCC3=CC=CC=C3)C3=C(C=CC=C3)Cl)C1 | C24H18Cl2N4S
